US04324792
N,N-Dimethyl-3-(imidazol-2-yl)-3-phenyl-1-propanamine
Hydrogen chloride was passed into a solution of α-(N,N-dimethylaminoethyl)benzeneacetonitrile (18.8 g) and dry methanol (6.3 ml) in dry dichloromethane (200 ml) for 8 h at 5°-15°. Solvent was removed to give a colourless oil which was taken up in dry methanol (150 ml) and treated with 2 M sodium methoxide solution (65 ml). Aminoacetaldehyde dimethyl acetal (10.6 g) was added and the mixture left to stand overnight. Methanol was then removed and the residue dissolved in 2 N hydrochloric acid (200 ml) and heated at 80° for 30 min. The mixture was cooled, adjusted to pH 9.5 with potassium carbonate and extracted with ethyl acetate (3×200 ml). The extracts were washed with brine (200 ml), concentrated and dried in vacuo to give the title compound, m.p. 135°-136° (16.3 g).

reactant | Hydrogen chloride | Cl | ClH
reactant | α-(N,N-dimethylaminoethyl)benzeneacetonitrile | 18.8 g | CN(C)CCC(C#N)C1=CC=CC=C1 | C12H16N2
reactant | sodium methoxide | 2 M, 65 ml | C[O-].[Na+]
reactant | Aminoacetaldehyde dimethyl acetal | 10.6 g | COC(CN)OC | C4H11NO2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 6.3 ml | CO | CH4O
product | N,N-Dimethyl-3-(imidazol-2-yl)-3-phenyl-1-propanamine | CN(CCC(C1=CC=CC=C1)C=1NC=CN1)C | C14H19N3
